US05922724
4-Fluoro-1-iodo-3-nitrobenzene (1c):
A suspension of 4-fluoro-3-nitroaniline (100 g, 0.64 mol) in conc. hydrochloric acid (500 ml) is cooled to -20° C. A solution of sodium nitrite (48.6 g, 0.7 mol) in 100 ml of water is added with stirring, keeping the temperature below -15° C. Following the addition the mixture is stirred for 45 min. at -20-(-15)° C. To the resulting solution a solution of potassium iodide (132.8 g, 0.8 mol) in 260 ml of water is added at such a rate that the temperature is kept below 0° C. The mixture is stirred until the evolution of nitrogen has ceased. Aqueous sodium sulfite (200 ml, 1 M) is added and the mixture is extracted with diethyl ether. The etheral extract is washed twice with ice-cold 1 M aqueous sodium hydroxide and twice with brine. Finally the extract is dried over magnesium sulfate, concentrated and purified by column-chromatography on silica gel using a mixture of ethyl acetate and petroleum ether (1:9) as the eluent. 1cis isolated as an oil, which crystallizes in the refrigerator. Yield: 132.6 g (78%).

reactant | 4-fluoro-3-nitroaniline | 0.64 mol, 100 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | sodium nitrite | 0.7 mol, 48.6 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.8 mol, 132.8 g | [I-].[K+]
reactant | sodium sulfite | 1 M, 200 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | hydrochloric acid | 500 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 260 ml | O | H2O
product | 4-Fluoro-1-iodo-3-nitrobenzene | FC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3FINO2
